US08084448B2
E. 7-Oxo-6,7-dihydro-5H-dibenzo[c,e]azepine-5-carboxylic Acid Methyl Ester
To a solution of (2-iodobenzoylamino)-(2-iodophenyl)-acetic acid methyl ester (3.4 g, 6.53 mmol) in DMF (300 mL) under argon is added PdCl2(dppf) (269 mg, 0.33 mmol) and KOAc (1.28 g, 13.06 mmol) and the mixture is heated at 110° C. for 18 h. Additional PdCl2(dppf) is added and heating is continued until all starting material is consumed. The solvent is removed under reduced pressure and the residue purified by flash chromatography using a gradient of 0-50% MeOH/methylene chloride as eluent to give the title compound as a yellow oil.

reactant | (2-iodobenzoylamino)-(2-iodophenyl)-acetic acid methyl ester | 6.53 mmol, 3.4 g | COC(C(C1=C(C=CC=C1)I)NC(C1=C(C=CC=C1)I)=O)=O | C16H13I2NO3
reactant | KOAc | 13.06 mmol, 1.28 g | CC(=O)[O-].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.33 mmol, 269 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-Oxo-6,7-dihydro-5H-dibenzo[c,e]azepine-5-carboxylic Acid Methyl Ester | COC(=O)C1NC(C2=C(C3=C1C=CC=C3)C=CC=C2)=O | C16H13NO3
